US06448273B1
1-Ethyl-2-hydroxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride
2.0 g (7.33 mmol) 1-ethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1H)-one was dissolved in 50 ml of 4N hydrochloric acid and refluxed for 6 hours. Concentration to dryness in vacuo afforded the crude product. Recrystalissaion from methanol/diethyl ether gave the pure title compound (1.1 g, 73%) as a white crystalline solid. m.p. 168-169° C.

reactant | 1-ethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1H)-one | 7.33 mmol, 2.0 g | C(C)N1C(=C(C(C=C1)=O)OCC1=CC=CC=C1)COC | C16H19NO3
reactant | methanol diethyl ether | CO.C(C)OCC
reactant | hydrochloric acid | 4N, 50 ml | Cl | ClH
product | 1-Ethyl-2-hydroxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride | 1.1 g, 73% | Cl.C(C)N1C(=C(C(C=C1)=O)O)CO | InChI=1S/C8H11NO3.ClH/c1-2-9-4-3-7(11)8(12)6(9)5-10;/h3-4,10,12H,2,5H2,1H3;1H
